US07141596B2
Step 1. tert-Butyl (1S)-1-(3-bromo-4-iodobenzyl)-2-oxo-2-[(2-oxo-2-phenylethyl)amino]ethylcarbamate
A solution of (2S)-3-(3-bromo-4-iodophenyl)-2-[(tert-butoxycarbonyl)amino]propanoic acid (4.10 g, 6.10 mmol), N,N-dimethylformamide (49 mL) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (4.24 g, 9.59 mmol) was stirred at 25° C. After stirring for 10 min, added 2-amino-1-phenylethanone hydrochloride (2.24 g, 13.1 mmol) and N,N-diisopropylethylamine (7.60 mL). The reaction was stirred at 25° C. for 2 h. The reaction was diluted with saturated sodium bicarbonate and extracted with ethyl acetate three times, dried with sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by flash column chromatography to yield the desired product (1.2 g, 33%). MF=C22H24BrIN2O4; LCMS found for C22H25BrIN2O4 (M+H−Boc)+: m/z=487.

reactant | (2S)-3-(3-bromo-4-iodophenyl)-2-[(tert-butoxycarbonyl)amino]propanoic acid | 6.10 mmol, 4.10 g | BrC=1C=C(C=CC1I)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C14H17BrINO4
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 9.59 mmol, 4.24 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 2-amino-1-phenylethanone hydrochloride | 13.1 mmol, 2.24 g | Cl.NCC(=O)C1=CC=CC=C1
reactant | N,N-diisopropylethylamine | 7.60 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 49 mL | CN(C=O)C | C3H7NO
product | tert-Butyl (1S)-1-(3-bromo-4-iodobenzyl)-2-oxo-2-[(2-oxo-2-phenylethyl)amino]ethylcarbamate | 1.2 g, 33% | BrC=1C=C(C[C@@H](C(NCC(C2=CC=CC=C2)=O)=O)NC(OC(C)(C)C)=O)C=CC1I | C22H24BrIN2O4
